MM4 (net28 net8 net12 net22) pmos4
MM3 (net29 net7 net12 net22) pmos4
MM0 (net12 VB1 VDD VDD) pmos4
MM6 (net16 VB2 net25 VDD) pmos4
MM5 (VOUT1 VB2 net24 VDD) pmos4
MM2 (net25 net16 VDD VDD) pmos4
MM1 (net24 net16 VDD VDD) pmos4
MM10 (net29 net1001 VSS VSS) nmos4
MM9 (net28 net1001 VSS VSS) nmos4
MM8 (net16 net1003 net29 VSS) nmos4
MM7 (VOUT1 net1003 net28 VSS) nmos4
MM15 (net1003 net1003 net1001 VSS) nmos4
MM13 (net1001 net1001 VSS VSS) nmos4
MM14 (net1003 net1006 VDD VDD) pmos4
MM2 (net1006 VB4 VB3 VSS) nmos4
MM0 (VB4 VB3 VSS VSS) nmos4
MM4 (VB3 net15 VSS VSS) nmos4
MM5 (net15 net15 VSS VSS) nmos4
MM3 (net1006 net1006 VDD VDD) pmos4
MM1 (VB4 net1006 VDD VDD) pmos4
MM6 (net15 net1006 VDD VDD) pmos4
Q1 (VSS VSS net13 0) pnp
Q0 (VSS VSS net7 0) pnp
R2 (VOUT1 net7) resistor
R1 (VOUT1 net8) resistor
R0 (net8 net13) resistor